US05492714
Typically, about 118 kg of a mixture of C10:0 and C8:0 fatty acids (55:45 weight ratio) is preheated to the esterification temperature and adjusted to the requisite pressure. This fatty acid mixture is used to esterify about 16.8 kg of monobehenin at an 18:1 acid to monobehenin mole ratio at esterification temperature 245° C. (The monobehenin is commercially produced by molecular distillation of behenic acid/glycerol reaction products and comprises 98.1% monoglyceride, 0.5% diglyceride, 0.1% free glycerol, and 0.3% diglycerol.) The monobehenin is added incrementally as a liquid over a 60 minute period to the melted fatty acids. The esterification pressure ranges from 700 mmHg to 1520 mmHg. A pressure of 700 mmHg is initially used, but is increased as necessary to prevent the mixture containing the fatty acids from boiling over.

reactant | C10:0 | CCCCCCCCCC(=O)O | C10H20O2
reactant | C8:0 | CCCCCCCC(=O)O | C8H16O2
reactant | monobehenin | about 16.8 kg | CCCCCCCCCCCCCCCCCCCCCC(=O)OCC(CO)O | C25H50O4
product | behenic acid glycerol | C(CCCCCCCCCCCCCCCCCCCCC)(=O)O.OCC(O)CO | InChI=1S/C22H44O2.C3H8O3/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22(23)24;4-1-3(6)2-5/h2-21H2,1H3,(H,23,24);3-6H,1-2H2
